US04491669
Dimethyl(dimethylamino)ethoxysilane
A 2 L 3 neck flask equipped with a magnetic stirrer, Frederich's condensor and an addition funnel was charged with 361 mls of bis(dimethylamino)dimethylsilane and an equal volume of tetrahydrofuran. At ambient temperature, 116 mls of anhydrous ethanol was added over one hour. Dimethylamine evolved. The mixture was transferred to a single neck flask and distilled. 264 g of dimethyl(dimethylamino)ethoxysilane, (b.p. 115°-118° C.), was recovered.

reactant | bis(dimethylamino)dimethylsilane | 361 mls | CN(C)[Si](C)(C)N(C)C | C6H18N2Si
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | Dimethylamine | CNC | C2H7N
solvent | ethanol | 116 mls | C(C)O | C2H6O
product | Dimethyl(dimethylamino)ethoxysilane | C[SiH](OCCN(C)C)C | C6H17NOSi
